US07255779B2
Into a reaction flask were introduced 89.7 g of methyl 4-methyl-3-nitrobenzoate, 82.1 g of dimethylformamide dimethyl acetal and 200 ml of dimethylformamide (DMF), and the content of the flask was stirred at 120° C. for 6 hours. DMF was distilled off to obtain a red-violet colored solid product. Then, 300 ml of methanol was poured into the flask to wash the crystalline matter, and filtered. Thus, 104.8 g (yield 91%) of methyl 4-dimethylaminovinyl-3-nitrobenzoate was obtained.

reactant | methyl 4-methyl-3-nitrobenzoate | 89.7 g | CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | dimethylformamide dimethyl acetal | 82.1 g | COC(N(C)C)OC | C5H13NO2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
product | methyl 4-dimethylaminovinyl-3-nitrobenzoate | 104.8 g, yield 91% | CN(C)C=CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H14N2O4
